US09289503B2
The HCl salt of (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate (0.735 mmol) was taken up in 40 mL of CH3CN along with (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid (EPA, 222 mg, 0.735 mmol), HATU (307 mg, 0.81 mmol) and DIEA (380 μL). The resulting reaction mixture was stirred at room temperature for 2 h and diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried (Na2SO4) and concentrated under reduced pressure. Purification by chromatography (95% CH2Cl2, 5% MeOH) afforded 300 mg of (E)-methyl 4-(2-(5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamidoethylamino)-4-oxobut-2-enoate (89% yield). MS (EI) calcd for C23H40N2O4: 456.3; found: 457 (M+1).

reactant | HCl | Cl | ClH
reactant | (E)-methyl 4-(2-aminoethylamino)-4-oxobut-2-enoate | 0.735 mmol | NCCNC(/C=C/C(=O)OC)=O | C7H12N2O3
reactant | (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid | 0.735 mmol, 222 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C20H30O2
reactant | HATU | 0.81 mmol, 307 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 380 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 40 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-methyl 4-(2-(5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamidoethylamino)-4-oxobut-2-enoate | 300 mg, 89% yield | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(/C=C/C(=O)OC)=O | C27H40N2O4
